US07229999B2
5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-3-pyridinecarboxylic acid
5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-3-pyridinecarboxylic acid methyl ester (0.27 g, 0.7 mmol) was dissolved in dioxane (6 mL). Water (6 mL) and sodium hydroxide solution (2 mL, 2N) was added and the mixture was boiled with stirring for 2.5 h, cooled to room temperature and partitioned between diethyl ether and hydrochloric acid (1N). Organic phases were pooled, dried with Na2SO4 and the solvent was evaporated. The residue, 0.27 g of the title compound as a orange-yellow solid was introduced into the next step without purification, MS (ISP) 386.5 (M+H)+.

reactant | 5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-3-pyridinecarboxylic acid methyl ester | 0.7 mmol, 0.27 g | COC(=O)C=1C=NC(=C(C1)C1=C(C=CC(=C1)C(F)(F)F)Cl)OC1CCCC1 | C19H17ClF3NO3
reactant | Water | 6 mL | O | H2O
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-3-pyridinecarboxylic acid | ClC1=C(C=C(C=C1)C(F)(F)F)C=1C=C(C=NC1OC1CCCC1)C(=O)O | C18H15ClF3NO3
